US04024262
A mixture of 7.2 g. (0.0314 mole) of 3-ethyl-5-methyl-6-phenyl-isoxazolo[4,5-c]pyridin-4(5H)-one, 160 ml. ethanol and 0.800 g. 10% palladium on carbon is hydrogenated at 50 psi and room temperature. The hydrogenation is ceased after 1 equivalent of hydrogen is absorbed (ca 4 hours). The mixture is filtered to remove the catalyst and the solvent removed in vacuo. The residue is crystallized from ether to give 3-(1-iminopropyl)-4-hydroxy-6-phenyl-1-methyl-2(1H)-pyridone, m.p. 145° to 147° C.

reactant | 3-ethyl-5-methyl-6-phenyl-isoxazolo[4,5-c]pyridin-4(5H)-one | 0.0314 mole | C(C)C1=NOC2=C1C(N(C(=C2)C2=CC=CC=C2)C)=O | C15H14N2O2
reactant | hydrogen | 1 equivalent | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-(1-iminopropyl)-4-hydroxy-6-phenyl-1-methyl-2(1H)-pyridone | N=C(CC)C=1C(N(C(=CC1O)C1=CC=CC=C1)C)=O | C15H16N2O2
